US05994378
A mixture of 5-isopropyl-1H-indazole-3-carboxylic acid (1.44 g) and conc. sulphuric acid (2 drops) in methanol (20 ml) was stirred under reflux for 1 day. After removal of solvent by evaporation, the resulting residue was dissolved with ethyl acetate. The ethyl acetate extract was washed successively with aqueous sodium hydrogen carbonate solution, water, and brine, and was dried over magnesium sulfate, and concentrated under reduced pressure to give methyl 5-isopropyl-1H-indazole-3-carboxylate (1.39 g).

reactant | 5-isopropyl-1H-indazole-3-carboxylic acid | 1.44 g | C(C)(C)C=1C=C2C(=NNC2=CC1)C(=O)O | C11H12N2O2
reactant | methanol | 20 ml | CO | CH4O
catalyst | sulphuric acid | 2 drops | S(O)(O)(=O)=O | H2O4S
product | methyl 5-isopropyl-1H-indazole-3-carboxylate | 1.39 g | C(C)(C)C=1C=C2C(=NNC2=CC1)C(=O)OC | C12H14N2O2
